US05028711
6-Trifluoromethylsulphonyl-2,2-dimethyl-2H-benzo(b)pyran
1 g (4.4 mmol) of 4-trifluoromethylsulphonylphenol are stirred under argon at 80°-90° C. for 20 hours together with 0.66 g of potassium carbonate, 80 mg of potassium iodide and 2 g of 3-chloro-3-methyl-1-butyne in 13 ml of dry butanone. 0.33 g of potassium carbonate, 40 mg of potassium iodide and 1 g of 3-chloro-3-methyl-1-butyne are then added once again and the mixture is stirred at 80°-90° C. for a further 20 hours. It is then allowed to cool and is filtered, and the filtrate is evaporated. The residue is taken up in 20 ml of methylene chloride, washed with water (2×20 ml), dried and evaporated. The oil which remains (1.3 g) is heated under argon to 180° C. for 3 hours in o-dichlorobenzene (3 ml). After distilling off the solvent, the residue is chromatographed on silica gel. 0.5 g of colorless oil are obtained (50 % of theory). M+ =292 (5).

reactant | 4-trifluoromethylsulphonylphenol | 4.4 mmol, 1 g | FC(S(=O)(=O)C1=CC=C(C=C1)O)(F)F | C7H5F3O3S
reactant | potassium carbonate | 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 80 mg | [I-].[K+]
reactant | 3-chloro-3-methyl-1-butyne | 2 g | ClC(C#C)(C)C | C5H7Cl
reactant | potassium carbonate | 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
reactant | 3-chloro-3-methyl-1-butyne | 1 g | ClC(C#C)(C)C | C5H7Cl
solvent | butanone | 13 ml | CC(CC)=O | C4H8O
product | 6-Trifluoromethylsulphonyl-2,2-dimethyl-2H-benzo(b)pyran | 0.5 g | FC(S(=O)(=O)C1=CC2=C(OC(C=C2)(C)C)C=C1)(F)F | C12H11F3O3S
